US08222416B2
A solution of 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-2-methyl-propionic acid ethyl ester (1.34 g, 2.11 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 8.0 mL, 8.0 mmol) was stirred at room temperature for 12 h. The resulting mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-2-methyl-propionic acid ethyl ester (1.04 g, quant.) as a white solid: LC/MS m/e calcd for C27H32N2O5S [M+H]+ 497.63, observed 497.4.

reactant | 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-2-methyl-propionic acid ethyl ester | 2.11 mmol, 1.34 g | C(C)OC(C(C)(C)OC=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2)=O | C33H36N2O7S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8.0 mmol, 1 M, 8.0 mL | O1CCCC1 | C4H8O
product | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-2-methyl-propionic acid ethyl ester | 1.04 g | C(C)OC(C(C)(C)OC=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C27H32N2O5S
